US04500467
A solution of 8.7 g (25 millimoles) of (S)-2,3-bis-(benzoylthio)-propionic acid and 4.8 g (25 millimoles) of 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride in 125 ml of a 4:1 mixture of tetrahydrofuran and water was added to 4.4 g (25 millimoles) of tert.-butyl proline (crude product, obtained by hydrogenation of 7.6 g of tert.-butyl Z-proline) in 100 ml of tetrahydrofuran, while cooling at 0° C. The mixture was stirred for 1 hour at 0° C. and then for 1 hour at 20° C., after which it was partitioned between ethyl acetate and water by shaking, and the organic phase was dried with anhydrous sodium sulfate and evaporated down under reduced pressure. Chromatography with 2:1 cyclohexane/ethyl acetate over a column containing deactivated silica gel gave 9.0 g (72%) of tert.-butyl N-[(S)-2,3-bis-(benzoylthio)-propionyl]-proline. The crude product was dissolved in 50 ml of dry dioxane, 50 ml of 6N HCl/dioxane were added and the mixture was left to stand for 1 hour at 20° C. It was partitioned between ethyl acetate and water by shaking, the organic phase was washed twice with water, dried with anhydrous sodium sulfate and evaporated down under reduced pressure and 7.8 g (70%) of N-[(S)-2,3-bis-(benzoylthio)-propionyl]-proline, melting point 155°-158° C. (cyclohexane/ethyl acetate), Rf=0.56 in system I, [α]D20 =+76° (c=1 in chloroform), were obtained.

reactant | (S)-2,3-bis-(benzoylthio)-propionic acid | 25 millimoles, 8.7 g | C(C1=CC=CC=C1)(=O)S[C@@H](C(=O)O)CSC(C1=CC=CC=C1)=O | C17H14O4S2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 25 millimoles, 4.8 g | Cl.C(C)N=C=NCCCN(C)C
reactant | water | O | H2O
reactant | tert.-butyl proline | 25 millimoles, 4.4 g | C(C)(C)(C)N1[C@H](C(=O)O)CCC1 | C9H17NO2
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | tert.-butyl N-[(S)-2,3-bis-(benzoylthio)-propionyl]-proline | 9.0 g, 72% | C(C)(C)(C)[C@@]1(N(CCC1)C([C@@H](CSC(C1=CC=CC=C1)=O)SC(C1=CC=CC=C1)=O)=O)C(=O)O | C26H29NO5S2
